US08420670B2
(3,4-Dichlorobenzyl)-(2-methyl-8-morpholin-4-yl-quinolin-4-yl)-amine hydrobromide
N*4*-(3,4-Dichlorobenzyl)-2-methylquinoline-4,8-diamine (60.0 mg, 0.181 mmole) and bis(2-bromoethyl)ether (83.7 mg, 0.361 mmole) in dimethylformamide (1 mL), were stirred at 100° C. for 90 min in a microwave oven. Water was added and the mixture was extracted with dichloromethane. The organic phases were washed with saturated NaCl solution, dried and the solvent was removed. The residue thus obtained was purified using silica gel chromatography, eluting with dichloromethane:water 90:10. Precipitation in ethyl acetate gave a brownish solid (15 mg, 17%).

reactant | N*4*-(3,4-Dichlorobenzyl)-2-methylquinoline-4,8-diamine | 0.181 mmole, 60.0 mg | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)N)C)C=CC1Cl | C17H15Cl2N3
reactant | bis(2-bromoethyl)ether | 0.361 mmole, 83.7 mg | BrCCOCCBr | C4H8Br2O
reactant | Water | O | H2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (3,4-Dichlorobenzyl)-(2-methyl-8-morpholin-4-yl-quinolin-4-yl)-amine hydrobromide | 15 mg, 17% | Br.ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)N2CCOCC2)C)C=CC1Cl | InChI=1S/C21H21Cl2N3O.BrH/c1-14-11-19(24-13-15-5-6-17(22)18(23)12-15)16-3-2-4-20(21(16)25-14)26-7-9-27-10-8-26;/h2-6,11-12H,7-10,13H2,1H3,(H,24,25);1H
